US05010079
3.1 3-(Ethylthio)-5-fluoro-3-methyl-1,3-dihydro-2(2H)indolone
The compound is prepared as described under 1.1, starting with 24.4 g (0.22 mole) of 4-fluoroaniline, 26.2 ml of t-butyl hypochlorite and 35.7 g (0.22 mole) of ethyl 2(ethylthio)propanoate.

reactant | 4-fluoroaniline | 0.22 mole, 24.4 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | t-butyl hypochlorite | 26.2 ml | ClOC(C)(C)C | C4H9ClO
reactant | ethyl 2(ethylthio)propanoate | 0.22 mole, 35.7 g | C(C)SC(C(=O)OCC)C | C7H14O2S
product | 3-(Ethylthio)-5-fluoro-3-methyl-1,3-dihydro-2(2H)indolone | C(C)SC1(C(NC2=CC=C(C=C12)F)=O)C | C11H12FNOS
